US09428509B2
4-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
2-Chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv) and (4-(methylcarbamoyl)phenyl)boronic acid (1.3 equiv) were combined in 1,4-dioxane (0.3 M). Sodium carbonate (3 equiv), dissolved in water (3.6 M), was added to the reaction mixture, followed by addition of [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (0.1 equiv). Nitrogen gas was bubbled through the reaction mixture for 2 min then reaction was heated at 90° C. for 3 h. The solvent was removed under reduced pressure and the product was purified by silica gel chromatography (Biotage, 0-80% ethyl acetate in hexane over 2.2 L). The fractions containing the desired product were combined and evaporated under reduced pressure to give the title compound (62.5% yield) as an orange solid. MS (ESI) m/z 501.4 [M+1]+.

reactant | 2-Chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCCC2 | C17H25ClIN3O2Si
reactant | (4-(methylcarbamoyl)phenyl)boronic acid | 1.3 equiv | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | Sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 0.3 M | O1CCOCC1 | C4H8O2
solvent | water | 3.6 M | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 62.5% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H33ClN4O3Si
